US06355633B1
5-Amino-2-[(E)-2-[4-[[(1,1-dimethylethoxy)carbonyl]amino]-2-sulfophenyl]ethenyl]benzenesulfonic Acid
1M Tetrabutylammonium hydroxide (54 mL, 54 mmol) was added to a solution of commercially available 4,4′-diaminostilbene-2,2′-disulfonic acid (10 g, 27 mmol) in water (80 mL). The resulting orange solution was stirred 10 mins upon which 1M di-tert-butyl dicarbonate in THF (26 mL, 26 mmol) was added dropwise over 20 min. The resulting orange solution was strirred at room temperature for 20 hrs. The reaction mixture was partitioned between methylene chloride (150 mL) and water (20 mL). The organic layer was separated and extracted with water (3×20 mL). It was then dried (MgSO4) and concentrated in vacuum to provide a brown solid. Silica Gel gravitational chromatography (gradient: dichloromethane/methanol) afforded the (tetra-N-butyl)ammonium salt of the title compound as an orange powder (10.45 g, 40% yield): 1HNMR (DMSO-d6) δ0.83 (m, 24H), 1.16 (m, 16H), 1.34 (m, 16H), 1.50 (s, 9H), 2.94 (m, 16H), 5.30 (s, 2H), 6.53 (dd, J=6, 3 Hz, 2H), 7.44 (d, J=3 Hz, 1H), 7.47 (dd, J=8, 2 Hz, 1H), 7.69 (dd, J=31, 8, 1H), 7.82 (d, 2 Hz, 1H), 8.10 (dd, 32, 17 Hz, 2H): MS (ESI) [M−H]− at m/z 469.

reactant | Tetrabutylammonium hydroxide | 54 mmol, 1M, 54 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4,4′-diaminostilbene-2,2′-disulfonic acid | 27 mmol, 10 g | NC=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O | C14H14N2O6S2
reactant | di-tert-butyl dicarbonate | 1M | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 26 mmol, 26 mL | C1CCOC1 | C4H8O
solvent | water | 80 mL | O | H2O
solvent | dichloromethane methanol | ClCCl.CO
product | 5-Amino-2-[(E)-2-[4-[[(1,1-dimethylethoxy)carbonyl]amino]-2-sulfophenyl]ethenyl]benzenesulfonic Acid | 10.45 g, 40% yield | NC=1C=CC(=C(C1)S(=O)(=O)O)\C=C\C1=C(C=C(C=C1)NC(=O)OC(C)(C)C)S(=O)(=O)O | C19H22N2O8S2
